US04414216
A mixture of 2.59 g of 2-(4-fluorophenyl)-5-(bromomethyl)tetrahydrofuran, 2.17 g of 1-(4-piperidyl)benzimidazolin-2-one, 1.5 g of sodium iodide and 1.38 g of potassium carbonate in 30 ml of dimethylformamide is heated with stirring at 50°-60° C. for 3 hours. The reaction mixture is then poured into water and extracted with chloroform. The extract is washed twice with water and dried over magnesium sulfate, and the solvent is distilled off under reduced pressure. The residue is purified by column chromatography on silica gel with chloroform eluant. The thus obtained colorless oil is dissolved in ethanol, and fumaric acid is added thereto. The crystals precipitated are collected by filtration and recrystallized from ethanol to give 1-[1-(2-(4-fluorophenyl)-tetrahydro-5-furylmethyl)-4-piperidyl]benzimidazolin-2-one fumarate as colorless needles, melting at 200°-201° C.

reactant | 2-(4-fluorophenyl)-5-(bromomethyl)tetrahydrofuran | 2.59 g | FC1=CC=C(C=C1)C1OC(CC1)CBr | C11H12BrFO
reactant | 1-(4-piperidyl)benzimidazolin-2-one | 2.17 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | sodium iodide | 1.5 g | [I-].[Na+]
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[1-(2-(4-fluorophenyl)-tetrahydro-5-furylmethyl)-4-piperidyl]benzimidazolin-2-one fumarate | C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)C1OC(CC1)CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | InChI=1S/C23H26FN3O2.C4H4O4/c24-17-7-5-16(6-8-17)22-10-9-19(29-22)15-26-13-11-18(12-14-26)27-21-4-2-1-3-20(21)25-23(27)28;5-3(6)1-2-4(7)8/h1-8,18-19,22H,9-15H2,(H,25,28);1-2H,(H,5,6)(H,7,8)/b;2-1+
